US09193687B2
10% Palladium on charcoal (1.0 g) was suspended in a solution of 3-(dimethylamino)-N-(3-nitrophenyl)propanamide (4.7 g, 20 mmol) in ethyl acetate. The mixture was hydrogenated at 35 psi overnight. The reaction mixture was filtered through a pad of Celite. The filter cake was washed successively with ethyl acetate and methanol. The combined filtrate and washings were evaporated in vacuo to dryness to give N-(3-aminophenyl)-3-(dimethylamino)propanamide as brown gum, 3.9 g (94%). 1H NMR (DMSO-d6) δ: 2.16 (6H, s, CH3), 2.36 (2H, t, J=6.8 Hz, CH2), 3.40 (2H, t, J=6.8 Hz, CH2), 5.20 (2H, brs, NH2), 6.66 (1H, d, J=7.8 Hz, Ar—H), 6.91 (1H, d, J=7.7 Hz, Ar—H), 7.04 (1H, s, Ar—H), 7.15 (1H, t, J=7.4 Hz, Ar—H), 9.05-9.08 (1H, brs, NH).

reactant | 3-(dimethylamino)-N-(3-nitrophenyl)propanamide | 20 mmol, 4.7 g | CN(CCC(=O)NC1=CC(=CC=C1)[N+](=O)[O-])C | C11H15N3O3
catalyst | Palladium on charcoal | 1.0 g | [Pd] | Pd
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(3-aminophenyl)-3-(dimethylamino)propanamide | NC=1C=C(C=CC1)NC(CCN(C)C)=O | C11H17N3O
